* Extracted by KLayout with GF180MCU LVS runset on : 06/08/2026 16:04

* cell TEXT
.SUBCKT TEXT
.ENDS TEXT

* cell TOP
.SUBCKT TOP
* cell instance $1 r180 *1 32.6,32.57
X$1 OUT cap_mim
* cell instance $2 r180 *1 32.61,47.77
X$2 OUT \$21 VDD ppolyf_u_resistor
* cell instance $3 r0 *1 1.74,45.21
X$3 \$14 OUT VDD ppolyf_u_resistor
* cell instance $4 r180 *1 32.61,38.41
X$4 GND \$4 VDD ppolyf_u_resistor
* cell instance $5 r0 *1 1.74,38.97
X$5 \$4 \$10 VDD ppolyf_u_resistor
* cell instance $6 r180 *1 32.61,41.53
X$6 \$10 \$9 VDD ppolyf_u_resistor
* cell instance $7 r0 *1 1.74,42.09
X$7 \$9 \$15 VDD ppolyf_u_resistor
* cell instance $8 r180 *1 32.61,44.65
X$8 \$15 \$14 VDD ppolyf_u_resistor
* cell instance $9 r0 *1 1.74,48.33
X$9 \$21 \$25 VDD ppolyf_u_resistor
* cell instance $10 r180 *1 32.61,50.89
X$10 \$25 \$29 VDD ppolyf_u_resistor
* cell instance $11 r0 *1 1.74,51.45
X$11 \$29 \$31 VDD ppolyf_u_resistor
* cell instance $12 r180 *1 32.61,54.01
X$12 \$31 \$35 VDD ppolyf_u_resistor
* cell instance $13 r0 *1 1.74,54.57
X$13 \$35 \$37 VDD ppolyf_u_resistor
* cell instance $14 r180 *1 32.61,57.13
X$14 \$37 \$39 VDD ppolyf_u_resistor
* cell instance $15 r0 *1 1.74,57.69
X$15 \$39 \$43 VDD ppolyf_u_resistor
* cell instance $16 r180 *1 32.61,60.25
X$16 \$43 \$47 VDD ppolyf_u_resistor
* cell instance $17 r0 *1 1.74,60.81
X$17 \$47 \$48 VDD ppolyf_u_resistor$3
* cell instance $18 r180 *1 32.61,63.37
X$18 \$48 \$51 VDD ppolyf_u_resistor$2
* cell instance $19 r0 *1 1.74,63.93
X$19 \$51 VDD VDD ppolyf_u_resistor$2
.ENDS TOP

* cell ppolyf_u_resistor$2
* pin 
* pin 
* pin 
.SUBCKT ppolyf_u_resistor$2 \$1 \$2 \$4
* device instance $1 r0 *1 15.435,0.5 ppolyf_u
R$1 \$1 \$2 \$4 10804.5 ppolyf_u L=30.87U W=1U
.ENDS ppolyf_u_resistor$2

* cell ppolyf_u_resistor$3
* pin 0
* pin 1
* pin S
.SUBCKT ppolyf_u_resistor$3 0 1 S
* device instance $1 r0 *1 15.435,0.5 ppolyf_u
R$1 0 1 S 10804.5 ppolyf_u L=30.87U W=1U
.ENDS ppolyf_u_resistor$3

* cell cap_mim
* pin bot
.SUBCKT cap_mim bot
* device instance $1 r0 *1 15.81,15.81 cap_mim_2f0fF
C$1 bot top 1.9996488e-12 cap_mim_2f0fF A=999.8244P P=126.48U
.ENDS cap_mim

* cell ppolyf_u_resistor
* pin 
* pin 
* pin 
.SUBCKT ppolyf_u_resistor \$1 \$2 \$5
* device instance $1 r0 *1 15.435,0.5 ppolyf_u
R$1 \$1 \$2 \$5 10804.5 ppolyf_u L=30.87U W=1U
.ENDS ppolyf_u_resistor
