** sch_path: /foss/designs/amp_top_test.sch
**.subckt amp_top_test
x1 IN OUT VDD 0 amp_top
V1 VDD 0 1.8
V2 IN 0 vin
* noconn OUT
**** begin user architecture code


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice  typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice  res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical

.control
  ac dec 50 10 100MEG
  plot vdb(out)
  meas ac kv_v_per_v max mag(v(out))
  meas ac kv_db max vdb(out)
  let target = kv_db - 3
  meas ac fd find frequency when vdb(out)=target rise=1
  meas ac fg find frequency when vdb(out)=target fall=1

.endc
.save all


**** end user architecture code
**.ends

* expanding   symbol:  amp_top.sym # of pins=4
** sym_path: /foss/designs/amp_top.sym
** sch_path: /foss/designs/amp_top.sch
.subckt amp_top IN OUT VDD GND
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin GND
x1 GND OUT cap_output
x3 IN net1 VDD GND filter_input
x2 net1 OUT VDD GND core_amp
.ends


* expanding   symbol:  cap_output.sym # of pins=2
** sym_path: /foss/designs/cap_output.sym
** sch_path: /foss/designs/cap_output.sch
.subckt cap_output IN_OUT GND
*.iopin IN_OUT
*.iopin GND
XC1 IN_OUT GND cap_mim_2f0fF c_width=10e-6 c_length=7.5e-6
.ends


* expanding   symbol:  filter_input.sym # of pins=4
** sym_path: /foss/designs/filter_input.sym
** sch_path: /foss/designs/filter_input.sch
.subckt filter_input IN OUT VDD GND
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin GND
XC1 OUT IN cap_mim_2f0fF c_width=31.62e-6 c_length=31.62e-6
XR2_1 OUT net2 VDD ppolyf_u_1k r_width=0.18e-6 r_length=19.11e-6
XR1_1 net1 OUT VDD ppolyf_u_1k r_width=0.18e-6 r_length=19.11e-6
XR1_2 GND net1 VDD ppolyf_u_1k r_width=0.18e-6 r_length=19.11e-6
XR2_2 net2 net3 VDD ppolyf_u_1k r_width=0.18e-6 r_length=19.11e-6
XR2_3 net3 net4 VDD ppolyf_u_1k r_width=0.18e-6 r_length=19.11e-6
XR2_4 net4 net5 VDD ppolyf_u_1k r_width=0.18e-6 r_length=19.11e-6
XR2_5 net5 net6 VDD ppolyf_u_1k r_width=0.18e-6 r_length=19.11e-6
XR2_6 net6 VDD VDD ppolyf_u_1k r_width=0.18e-6 r_length=19.11e-6
.ends


* expanding   symbol:  core_amp.sym # of pins=4
** sym_path: /foss/designs/core_amp.sym
** sch_path: /foss/designs/core_amp.sch
.subckt core_amp IN OUT VDD GND
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin GND
XM1 OUT IN GND GND nfet_03v3 L=0.28u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 OUT net1 VDD VDD pfet_03v3 L=2.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 net1 net1 VDD VDD pfet_03v3 L=2.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XR1 GND net1 VDD ppolyf_u_1k r_width=1e-6 r_length=1.05e-6 m=7
.ends

.end
